US06573270B1
5amino-1-{2-[(tert-butyl)dimethylsilyl]oxyethyl}-4-(4-methylphenyl)-1-H-pyrazol-3-ol
Sodium hydride (0.35 g, 60% suspension in mineral oil) was added in one portion to a stirred solution of 5-amino-1-(2-hydroxyethyl)-4-(4-methylphenyl)-1-H-pyrazol-3-ol(1.0 g) (Preparation 32) in anhydrous N,N-dimethylacetamide (20 ml) under a nitrogen atmosphere at room temperature. The initial effervescence observed subsided after 2-3 minutes and an orange/brown mixture resulted. After a further 7 minutes, tert-butyldimethylsilyl chloride (0.65 g) was added to the mixture in one portion and the reaction mixture was stirred at room temperature for 2 hours. Saturated aqueous ammonium chloride (50 ml) was added to the reaction mixture and the resulting aqueous medium was extracted with ethyl acetate (2×50 ml). The combined organic extracts were washed with water (40 ml), brine (40 ml) then dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallised from dichloromethane/hexane to give the title compound as a white solid (0.66 g). m.p. 193.5-195° C.

reactant | Sodium hydride | 0.35 g | [H-].[Na+]
reactant | 5-amino-1-(2-hydroxyethyl)-4-(4-methylphenyl)-1-H-pyrazol-3-ol | 1.0 g | NC1=C(C(=NN1CCO)O)C1=CC=C(C=C1)C | C12H15N3O2
reactant | tert-butyldimethylsilyl chloride | 0.65 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 5amino-1-{2-[(tert-butyl)dimethylsilyl]oxyethyl}-4-(4-methylphenyl)-1-H-pyrazol-3-ol | 0.66 g | NC1=C(C(=NN1CCO[Si](C)(C)C(C)(C)C)O)C1=CC=C(C=C1)C | C18H29N3O2Si
